US07074837B2
N-{2-Amino-(1S)-1-[1-(diethoxymethyl)cyclopropyl]ethyl}-N-[(1S)-1-phenylethyl]amine
In ethanol (9.0 ml) was dissolved (2S)-2-[1-(diethoxymethyl)cyclopropyl]-2-{[(1S)-1-phenylethyl]amino}acetonitrile (150 mg, 0.496 mmol). To the resulting solution were added a 5 mol/l aqueous solution of sodium hydroxide (0.5 ml, 2.5 mmol) and Raney-nickel (R-100, 1.5 g) were added and the mixture was stirred at room temperature for 5 hours in a hydrogen gas stream. The catalyst was filtered off and the residue was washed with ethanol. The filtrate was concentrated under reduced pressure. Water and chloroform were added to the residue for separation. The organic layer was dried over sodium sulfate, filtered, and then evaporated under reduced pressure, whereby the title compound (150 mg, 98.4%) was obtained as a slightly yellow oil.

reactant | (2S)-2-[1-(diethoxymethyl)cyclopropyl]-2-{[(1S)-1-phenylethyl]amino}acetonitrile | 0.496 mmol, 150 mg | C(C)OC(C1(CC1)[C@@H](C#N)N[C@@H](C)C1=CC=CC=C1)OCC | C18H26N2O2
reactant | sodium hydroxide | 2.5 mmol, 0.5 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 9.0 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 1.5 g | [Ni] | Ni
product | N-{2-Amino-(1S)-1-[1-(diethoxymethyl)cyclopropyl]ethyl}-N-[(1S)-1-phenylethyl]amine | NC[C@H](C1(CC1)C(OCC)OCC)N[C@@H](C)C1=CC=CC=C1 | C18H30N2O2
